US06616989B1
4-Octylbenzoyl chloride (obtained by reacting 4-octylbenzoic acid with thionyl chloride) is esterified with methanol in the presence of an equimolar amount of triethylamine and 0.1 mol % of DMAP. Customary work-up followed by purification by distillation affords methyl 4-octylbenzoate as a colorless liquid, b.p. 112° C./0.25 mbar.

reactant | 4-Octylbenzoyl chloride | C(CCCCCCC)C1=CC=C(C(=O)Cl)C=C1 | C15H21ClO
reactant | methanol | CO | CH4O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | methyl 4-octylbenzoate | C(CCCCCCC)C1=CC=C(C(=O)OC)C=C1 | C16H24O2
